US06310005B1
At 0 to 5° C. and with ice-cooling and stirring, 2.43 g (0.01 mol) of 3,4-dichloro-isothiazole-5-carbonyl chloride are added dropwise over a period of 5 minutes to a mixture of 1.21 g (0.011 mol) of 4-amino-morpholine and 22 ml of absolute pyridine. After the addition, the reaction mixture is admixed with 1.5 ml of absolute tetrahydrofuran, allowed to warm to room temperature and then stirred at room temperature for one hour. The reaction mixture is subsequently concentrated under reduced pressure. The residue that remains is admixed with 60 ml of water and 60 ml of ethyl acetate. The organic phase is separated off and the aqueous phase is extracted twice more with ethyl acetate. The combined organic phases are successively washed with 20 ml of saturated aqueous sodium bicarbonate solution and 50 ml of water, then dried over sodium sulphate and concentrated under reduced pressure. The residue is triturated in a mixture of 30 ml methylene chloride and 70 ml of petroleum ether. The resulting solid is filtered off with suction and dried. In this manner, 1.79 g (63% of theory) of N-morpholinyl-3,4-dichloro-isothiazole-5-carboxamide are obtained in the form of a solid of melting point 198 to 199° C.

reactant | 3,4-dichloro-isothiazole-5-carbonyl chloride | 0.01 mol, 2.43 g | ClC1=NSC(=C1Cl)C(=O)Cl | C4Cl3NOS
reactant | 4-amino-morpholine | 0.011 mol, 1.21 g | NN1CCOCC1 | C4H10N2O
reactant | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | N-morpholinyl-3,4-dichloro-isothiazole-5-carboxamide | 1.79 g, 63% | N1(CCOCC1)NC(=O)C1=C(C(=NS1)Cl)Cl | C8H9Cl2N3O2S
